2106-04-11 06:04:00 Physician Resident Progress Note
Chief Complaint: 55 y/o M ischemic cardiomyopathy EF 15%, now s/p VT/VF
   arrest transfered with cardiogenic shock.
   24 Hour Events:
   - weaned sedation
   - weaned pressors - only on Dopa 6mcg/kg/min
 INVASIVE VENTILATION - START [**2106-4-10**] 04:19 PM
 EKG - At [**2106-4-10**] 04:50 PM
 ARTERIAL LINE - START [**2106-4-10**] 05:23 PM
 MULTI LUMEN - START [**2106-4-10**] 05:59 PM
 URINE CULTURE - At [**2106-4-10**] 08:47 PM
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Dopamine - 6 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2106-4-11**] 12:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-11**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.5
C (99.5
   HR: 60 (55 - 70) bpm
   BP: 127/82(93) {127/82(93) - 158/107(114)} mmHg
   RR: 13 (11 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 69 Inch
    Mixed Venous O2% Sat: 75 - 75
   Total In:
                                                                    337 mL
                                                                    209 mL
   PO:
   TF:
   IVF:
                                                                    337 mL
                                                                    209 mL
   Blood products:
   Total out:
                                                                    885 mL
                                                                    470 mL
   Urine:
                                                                    885 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -548 mL
                                                                   -261 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 480 (329 - 480) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 32
   PIP: 11 cmH2O
   Plateau: 18 cmH2O
   Compliance: 43.7 cmH2O/mL
   SpO2: 97%
   ABG: 7.35/38/123/22/-3
   Ve: 7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , Rhonchorous: coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, Responds to: Tactile stimuli, Movement:
   Not assessed, Sedated, Tone: Not assessed
   Labs / Radiology
   146 K/uL
   12.1 g/dL
   125 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.4 mEq/L
   54 mg/dL
   102 mEq/L
   133 mEq/L
   36.4 %
   13.0 K/uL
        [image002.jpg]
                             [**2106-4-10**]  05:28 PM
                             [**2106-4-10**]  05:41 PM
                             [**2106-4-10**]  10:26 PM
                             [**2106-4-11**]  02:40 AM
   WBC
   13.0
   Hct
   36.4
   Plt
   146
   Cr
   2.0
   TropT
   0.62
   TCO2
   20
   20
   22
   Glucose
   125
   Other labs: PT / PTT / INR:58.6/38.6/6.6, CK / CKMB /
   Troponin-T:230/15/0.62, ALT / AST:813/663, Alk Phos / T Bili:78/0.5,
   Amylase / Lipase:/70, Differential-Neuts:81.9 %, Lymph:12.3 %, Mono:5.4
   %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:617 IU/L,
   Ca++:7.9 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: [**2106-4-10**] CXR: R IJ TLC, ETT, cardiomegaly, some cephalization,
   parenchyma largely clear, may have some retrocardiac opacity
   Microbiology: Urine cx pending
   UA: nit neg, leuk tr
   Assessment and Plan
   ASSESSMENT AND PLAN  55 y/o M ischemic cardiomyopathy EF 15%, now s/p
   VT/VF arrest transfered with cardiogenic shock.
   .
   # Shock/Arrest: Initial rhythm appears to be VF with e/o VT throughout
   ACLS treatment.  Could be [**3-16**] to thrombosis of DES in RCA vs. occlusion
   of LAD although both seem unlikely given relatively flat biomarkers
   post-arrest.  Scar mediated VT/VF is a possibility.  Currently, most
   likely in cardiogenic shock s/p arrest with improving hemodynamics on
   arrival.  Nothing by history to suggest another etiology for arrest
   although cannot exclude the possibility.
   - wean dopamine with MAP goal > 60.
   - weaned levophed to off on arrival.
   - If deteriorates clinically would consider cath urgently, otherwise
   plan for cath on Monday if INR allows.
   - Repeat ECG in AM.
   - Consider RHC PRN.
   .
   # Respiratory Failure: Intubated for airway protection.  High peak
   pressures on the vent, with relatively small tidal volumes.  CXR
   unimpressive, and oxygenating well.
   - Wean as tolerated.
   - RSBI, possible extubate
   .
   # CORONARIES: 2 vessel CAD with DES in RCA.  Plan as outlined above.
   - Aspirin
   - Plavix
   - Hold heparin gtt as INR supratherapeutic on coumadin.
   - High dose statin in acute setting until cath and then consider return
   to home dose if no acute plaque rupture detected.
   .
   # PUMP/Valves:  3+MR/2+TR by echo [**2106**].
   - Repeat Echo to evaluate for new wall motion abnormalities and
   progression of valvular disease that might be contributing to shock
   - Diurese as tolerated.
   - Central Venous O2 sat for Fick Cardiac Output
   .
   # RHYTHM: Sinus rhythm.  Monitor on tele.
   - Will need ICD for secondary prevention
   .
   # Neuro Status: With sedation weaned is responsive and follows simple
   commands.  Reportedly CT head negative at OSH.
   - wean sedation
   - follow exam closely
   .
   # Diabetes: Finger sticks have improved to normal range.  Does not
   require insulin at home but poorly controlled on oral agents.
   - hold metformin.
   - humalog insulin sliding scale
   .
   # LV Thrombus:
   - No e/o thrombus on repeat echo's, and ? need to continue coumadin
   long-term
   - Heparin gtt when INR < 2.0
   - hold vitamin K/coumadin and allow INR to reverse on its own.
   - Likely [**3-16**] coumadin at home with superimposed portion from liver
   failure.
   .
   # Liver Injury: Likely shock liver.
   - Trend enzymes
   .
   # Renal Failure: Likely ATN.  Send urinalysis, urine lytes.
   - I/O
   - foley catheter
   .
   # Leukocytosis: Likely [**3-16**] to arrest.
   - Panculture
   .
   # Access:
   - need to resite R IJ CVL
   - radial artery
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2106-4-10**] 04:36 PM
   Arterial Line - [**2106-4-10**] 05:23 PM
   Multi Lumen - [**2106-4-10**] 05:59 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-04-12 06:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2106-4-11**] 09:25 AM
   - extubated successfully.
   - CK normal, no evidence of active ischemia.
   - placed on CIWA given past history of etoh abuse.
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Amiodarone - 0.5 mg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-12**] 06:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.8
C (96.4
   HR: 76 (61 - 76) bpm
   BP: 127/82(93) {0/0(0) - 0/0(0)} mmHg
   RR: 21 (17 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    699 mL
                                                                     86 mL
   PO:
             TF:
   IVF:
                                                                    699 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  2,735 mL
                                                                    570 mL
   Urine:
                                                                  2,735 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,036 mL
                                                                   -484 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   Vt (Spontaneous): 393 (393 - 393) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 0 cmH2O
   FiO2: 50%
   PIP: 6 cmH2O
   SpO2: 96%
   ABG: 7.38/44/91.[**Numeric Identifier 143**]/23/0
   Ve: 8.9 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: Alert, NAD
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: OP clear and non-erythematous, No obvious JVD
   noted
   Cardiovascular: S1/S2 normal; RRR; No m/r/g noted
   Respiratory / Chest: Pt with cough; Lungs CTA bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No significant LE edema noted; No calf tenderness
   Skin:  Warm
   Neurologic: Alert; Oriented to person and to being in
hospital
   (thought he was at [**Hospital1 403**]), Not oriented to date
   Labs / Radiology
   115 K/uL
   9.6 g/dL
   127 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   29 mg/dL
   108 mEq/L
   137 mEq/L
   28.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2106-4-10**]  05:28 PM
                             [**2106-4-10**]  05:41 PM
                             [**2106-4-10**]  10:26 PM
                             [**2106-4-11**]  02:40 AM
                             [**2106-4-11**]  06:06 AM
                             [**2106-4-11**]  06:11 AM
                             [**2106-4-11**]  09:00 AM
                             [**2106-4-12**]  05:00 AM
                             [**2106-4-12**]  05:24 AM
   WBC
   13.0
   9.2
   6.7
   Hct
   36.4
   33.0
   28.1
   Plt
   146
   127
   115
   Cr
   2.0
   1.8
   1.4
   TropT
   0.62
   TCO2
   20
   20
   22
   22
   21
   27
   Glucose
   125
   171
   127
   Other labs: PT / PTT / INR:18.2/28.7/1.6, CK / CKMB /
   Troponin-T:140/15/0.62, ALT / AST:607/349, Alk Phos / T Bili:59/0.8,
   Amylase / Lipase:/70, Differential-Neuts:81.9 %, Lymph:12.3 %, Mono:5.4
   %, Eos:0.3 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:617 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.3 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   55 y/o M ischemic cardiomyopathy EF 15%, now s/p VT/VF arrest
   transfered with cardiogenic shock.
   .
   # Shock/Arrest: Initial rhythm appears to be VF with e/o VT throughout
   ACLS treatment.  Could be [**3-16**] to thrombosis of DES in RCA vs. occlusion
   of LAD although both seem unlikely given relatively flat biomarkers
   post-arrest.  Scar mediated VT/VF is a possibility.  Currently, most
   likely in cardiogenic shock s/p arrest with improving hemodynamics on
   arrival.  Nothing by history to suggest another etiology for arrest
   although cannot exclude the possibility.
   - pt off of pressors; continue to monitor BP
   - cardiac catheterization possibly tomorrow
   - If deteriorates clinically would consider cath urgently.
   - Consider RHC PRN.
   .
   # Altered Mental Status: Pt is oriented to person and place only.  Pt
   baseline not entirely clear.  Possibly etiologies could include
   infection versus neurologic effects from patient
s recent cardiac
   arrest.  No clear signs of infection, although pt does have a cough on
   exam.
   - CXR
   - CT Head
   - UA/Ucx
   - Blood Cx
   - follow neuro status
   .
   # Respiratory Failure: Initially intubated for airway protection.  High
   peak pressures on the vent, with relatively small tidal volumes.  CXR
   unimpressive, and oxygenating well.  Pt is now s/p extubation and
   satting well.
   - continue to monitor respiratory status
   .
   # CORONARIES: 2 vessel CAD with DES in RCA.  Plan as outlined above.
   - Aspirin
   - Plavix
   - Heparin gtt restarted now that INR <2
   - Continue statin.
   .
   # PUMP/Valves:  3+MR/2+TR by echo [**2106**].
   - continue to monitor fluid status
   - consider echo to evaluate cardiac function
   .
   # RHYTHM: Sinus rhythm.  Monitor on tele.
   - Will need ICD for secondary prevention
   - f/u additional EP recs
   .
   # Diabetes: Finger sticks have improved to normal range.  Does not
   require insulin at home but poorly controlled on oral agents.
   - hold metformin.
   - humalog insulin sliding scale
   - continue fingersticks
   .
   # LV Thrombus:
   - No e/o thrombus on repeat echo's, and ? need to continue coumadin
   long-term
   - Supratherapeutic INR likely [**3-16**] coumadin at home with superimposed
   portion from liver failure.
   - Now that INR<2, heparin gtt started
   .
   # Liver Injury: Likely shock liver. Improving.
   - Trend enzymes
   .
   # Renal Failure: Likely ATN. Renal function improving.
   - I/O
   - foley catheter
   .
   # Leukocytosis: Likely [**3-16**] arrest. Resolved.
   .
   # Access:
   - need to resite R IJ CVL
   - radial artery
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-4-10**] 05:23 PM
   Multi Lumen - [**2106-4-10**] 05:59 PM
   20 Gauge - [**2106-4-12**] 06:16 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2106-04-13 07:53:00 Physician Resident Progress Note
Chief Complaint: CC: VT/VF arrest
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2106-4-12**] 08:57 AM
 BLOOD CULTURED - At [**2106-4-12**] 12:00 PM
 URINE CULTURE - At [**2106-4-12**] 12:00 PM
 MULTI LUMEN - STOP [**2106-4-12**] 06:30 PM
   - advanced diet to diabetic, heart-healthy
   - started heparin gtt for subtherapeutic INR
   - due to altered mental status, checked head CT, CXR, UA, UCx, and
   Blood cx x 2, along with folate and B12
   - restarted carvedilol at 6.25 mg [**Hospital1 7**]
   - converted amiodarone to PO 400 mg TID
   - placed 2nd PIV and pulled RIJ CVL
   - increased carvedilol to 12.5 mg [**Hospital1 7**]
   - TTE shows  RV free wall hypokinesis
   - extubated successfully.
   -CK normal, no evidence of active ischemia.
   -placed on CIWA given past history of etoh abuse.
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-13**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 69 (62 - 78) bpm
   BP: 150/78(99) {119/59(81) - 168/87(109)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    452 mL
                                                                    131 mL
   PO:
                                                                    120 mL
                                                                     60 mL
   TF:
   IVF:
                                                                    332 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,410 mL
                                                                    970 mL
   Urine:
                                                                  1,410 mL
                                                                    970 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -958 mL
                                                                   -839 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///23/
   Physical Examination
   Oriented to person, disoriented to place and time
   RRR, no MRG
   Lungs CTA- non productive cough
   Abd: +bs, soft, nt, nd
   Ext: WWP
   Labs / Radiology
   118 K/uL
   9.9 g/dL
   76 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.8 mEq/L
   16 mg/dL
   109 mEq/L
   140 mEq/L
   29.7 %
   6.9 K/uL
        [image002.jpg]
                             [**2106-4-10**]  05:28 PM
                             [**2106-4-10**]  05:41 PM
                             [**2106-4-10**]  10:26 PM
                             [**2106-4-11**]  02:40 AM
                             [**2106-4-11**]  06:06 AM
                             [**2106-4-11**]  06:11 AM
                             [**2106-4-11**]  09:00 AM
                             [**2106-4-12**]  05:00 AM
                             [**2106-4-12**]  05:24 AM
                             [**2106-4-13**]  04:50 AM
   WBC
   13.0
   9.2
   6.7
   6.9
   Hct
   36.4
   33.0
   28.1
   29.7
   Plt
   146
   127
   115
   118
   Cr
   2.0
   1.8
   1.4
   1.2
   TropT
   0.62
   TCO2
   20
   20
   22
   22
   21
   27
   Glucose
   125
   171
   127
   76
   Other labs: PT / PTT / INR:15.1/62.5/1.3, CK / CKMB /
   Troponin-T:140/15/0.62, ALT / AST:458/194, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/70, Differential-Neuts:74.4 %, Lymph:15.6 %, Mono:7.0
   %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:617 IU/L,
   Ca++:8.3 mg/dL, Mg++:2.2 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 CARDIAC ARREST
   55 y/o M ischemic cardiomyopathy EF 15%, now s/p VT/VF arrest
   transferred with cardiogenic shock.
   .
   # Shock/Arrest: Initial rhythm appears to be VF with e/o VT throughout
   ACLS treatment.  Could be [**3-16**] to thrombosis of DES in RCA vs. occlusion
   of LAD although both seem unlikely given relatively flat biomarkers
   post-arrest.  Scar mediated VT/VF is a possibility.  Currently, most
   likely in cardiogenic shock s/p arrest with improving hemodynamics on
   arrival.  Nothing by history to suggest another etiology for arrest
   although cannot exclude the possibility.
   - pt off of pressors; continue to monitor BP
   - ICD placement if MS improves. [**Month (only) 51**] also consider cardiac cath in
   future with ?  reperfusible injury.
   - If deteriorates clinically would consider cath urgently.
   .
   Hypertension: Initially admitted for cardiogenic shock however
   currently hypertensive. Enalapril was hold due to renal function
   depressed.
   Increase carvedilol, restart low dose ace (lisinopril 5)
   # Altered Mental Status: Pt is oriented to person and place only.  Pt
   baseline not entirely clear.  Possibly etiologies could include
   infection versus neurologic effects from patient
s recent cardiac
   arrest.  No clear signs of infection, although pt does have a cough on
   exam.
   - CXR unremarkable, no leukoctosis. Unable to get sputum as pt can
   expectorate.
   - CT Head
prelim read negative. f/u if any mention anoxic brain injury
   in final read.
   - Ucx/Blood Cx pending
   - follow neuro status
   .
   # Respiratory Failure: Initially intubated for airway protection.  High
   peak pressures on the vent, with relatively small tidal volumes.  CXR
   unimpressive, and oxygenating well.  Pt is now s/p extubation and
   satting well.
   - continue to monitor respiratory status
   .
   # CORONARIES: 2 vessel CAD with DES in RCA.  Plan as outlined above.
   - Aspirin
   - Plavix
   - Heparin gtt restarted now that INR <2
   - Continue statin.
   .
   # PUMP/Valves:
   - continue to monitor fluid status
   - f/u final read of echo
   .
   # RHYTHM: Sinus rhythm.  Monitor on tele.
   - Will need ICD for secondary prevention
   - f/u additional EP recs
   .
   # Diabetes: Finger sticks have improved to normal range.  Does not
   require insulin at home but poorly controlled on oral agents.
   - hold metformin.
   - humalog insulin sliding scale
   - continue fingersticks
   .
   # LV Thrombus:
   - No e/o thrombus on repeat echo's, and ? need to continue coumadin
   long-term
   - Supratherapeutic INR likely [**3-16**] coumadin at home with superimposed
   portion from liver failure.
   - Now that INR<2, heparin gtt started
   .
   # Liver Injury: Likely shock liver. Improving.
   - Trend enzymes
   .
   # Renal Failure: Likely ATN. Renal function improving.
   - I/O
   - foley catheter
   .
   # Leukocytosis: Likely [**3-16**] arrest. Resolved.
   .
   ICU Care
   Nutrition: Regular Diet; Cardiac/Heart healthy , Diabetic/Consistent
   Carbohydrate
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2106-4-10**] 05:23 PM
   Multi Lumen - [**2106-4-10**] 05:59 PM
   20 Gauge - [**2106-4-12**] 06:16 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition Call out
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2106-4-10**] 05:23 PM
   20 Gauge - [**2106-4-12**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 9496**].
   I would add the following remarks:
   Medical Decision Making
   Still somewhat confused but hemodynamically stable.  I would avoid
   heart catheterization at this point given altered mental status and
   absence of ACS.  Patient care time 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2106-4-13**] 13:21 ------

2106-04-14 07:23:00 Physician Resident Progress Note
TITLE: PHYSICIAN RESIDENT PROGRESS NOTE
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2106-4-13**] 07:02 PM
Consulted neuro: found patient to be A+Ox3 with some comprehension difficulty fo
r complex commands and memory impairment, otherwise neurologically intact; recs
pending
   MRI brain done with read pending
   Increased carvedilol from 12.5 [**Hospital1 7**] to 25BID
   Started lisinopril 5mg q d, remained in 150s, restarted spironolactone
   in 120s since.
   TSH wnl at 1.5
   Called out -no bed, still here.
   Allergies:
   Penicillins
   Rash; Hives;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,100 units/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2106-4-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2106-4-14**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**08**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.8
C (98.2
   HR: 68 (60 - 80) bpm
   BP: 129/80(90) {122/69(85) - 138/85(98)} mmHg
   RR: 30 (17 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 69 Inch
             Total In:
                                                                    856 mL
                                                                    183 mL
   PO:
                                                                    640 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    216 mL
                                                                     63 mL
   Blood products:
   Total out:
                                                                  2,605 mL
                                                                    455 mL
   Urine:
                                                                  2,605 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,749 mL
                                                                   -272 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Alert, NAD
   Eyes / Conjunctiva: PERRL, EOMI
   Head, Ears, Nose, Throat: OP clear and non-erythematous, No obvious JVD
   noted
   Cardiovascular: S1/S2 normal; RRR; No m/r/g noted
   Respiratory / Chest: Pt with cough; Lungs CTA bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: No significant LE edema noted; No calf tenderness
   Skin:  Warm
   Neurologic: Alert; Oriented to person and to being in
hospital
   (thought he was at [**Hospital1 403**]), Not oriented to date
   Labs / Radiology
   132 K/uL
   10.5 g/dL
   187 mg/dL
   1.2 mg/dL
   23 mEq/L
   4.3 mEq/L
   26 mg/dL
   107 mEq/L
   139 mEq/L
   31.1 %
   8.5 K/uL
        [image002.jpg]
                             [**2106-4-10**]  05:41 PM
                             [**2106-4-10**]  10:26 PM
                             [**2106-4-11**]  02:40 AM
                             [**2106-4-11**]  06:06 AM
                             [**2106-4-11**]  06:11 AM
                             [**2106-4-11**]  09:00 AM
                             [**2106-4-12**]  05:00 AM
                             [**2106-4-12**]  05:24 AM
                             [**2106-4-13**]  04:50 AM
                             [**2106-4-14**]  03:19 AM
   WBC
   9.2
   6.7
   6.9
   8.5
   Hct
   33.0
   28.1
   29.7
   31.1
   Plt
   127
   115
   118
   132
   Cr
   1.8
   1.4
   1.2
   1.2
   TCO2
   20
   20
   22
   22
   21
   27
   Glucose
   171
   127
   76
   187
   Other labs: PT / PTT / INR:13.8/51.6/1.2, CK / CKMB /
   Troponin-T:140/15/0.62, ALT / AST:372/100, Alk Phos / T Bili:69/0.5,
   Amylase / Lipase:/70, Differential-Neuts:74.4 %, Lymph:15.6 %, Mono:7.0
   %, Eos:2.8 %, Lactic Acid:1.1 mmol/L, Albumin:3.6 g/dL, LDH:617 IU/L,
   Ca++:8.7 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   55 y/o M ischemic cardiomyopathy EF 15%, now s/p VT/VF arrest
   transferred with cardiogenic shock.
   .
   # Shock/Arrest: Initial rhythm appears to be VF with e/o VT throughout
   ACLS treatment.  Could be [**3-16**] to thrombosis of DES in RCA vs. occlusion
   of LAD although both seem unlikely given relatively flat biomarkers
   post-arrest.  Scar mediated VT/VF is a possibility.  Currently, most
   likely in cardiogenic shock s/p arrest with improving hemodynamics on
   arrival.  Nothing by history to suggest another etiology for arrest
   although cannot exclude the possibility.
   - pt off of pressors; continue to monitor BP
   - ICD placement if MS improves. [**Month (only) 51**] also consider cardiac cath in
   future with ?  reperfusible injury.
   - If deteriorates clinically would consider cath urgently.
   .
   Hypertension: Initially admitted for cardiogenic shock however
   currently hypertensive. Enalapril was hold due to renal function
   depressed.
   Increase carvedilol, restart low dose ace (lisinopril 5)
   # Altered Mental Status: Pt is oriented to person and place only.  Pt
   baseline not entirely clear.  Possibly etiologies could include
   infection versus neurologic effects from patient
s recent cardiac
   arrest.  No clear signs of infection, although pt does have a cough on
   exam.
   - CXR unremarkable, no leukoctosis. Unable to get sputum as pt can
   expectorate.
   - CT Head
prelim read negative. f/u if any mention anoxic brain injury
   in final read.
   - Ucx/Blood Cx pending
   - follow neuro status
   .
   # Respiratory Failure: Initially intubated for airway protection.  High
   peak pressures on the vent, with relatively small tidal volumes.  CXR
   unimpressive, and oxygenating well.  Pt is now s/p extubation and
   satting well.
   - continue to monitor respiratory status
   .
   # CORONARIES: 2 vessel CAD with DES in RCA.  Plan as outlined above.
   - Aspirin
   - Plavix
   - Heparin gtt restarted now that INR <2
   - Continue statin.
   .
   # PUMP/Valves:
   - continue to monitor fluid status
   - f/u final read of echo
   .
   # RHYTHM: Sinus rhythm.  Monitor on tele.
   - Will need ICD for secondary prevention
   - f/u additional EP recs
   .
   # Diabetes: Finger sticks have improved to normal range.  Does not
   require insulin at home but poorly controlled on oral agents.
   - hold metformin.
   - humalog insulin sliding scale
   - continue fingersticks
   .
   # LV Thrombus:
   - No e/o thrombus on repeat echo's, and ? need to continue coumadin
   long-term
   - Supratherapeutic INR likely [**3-16**] coumadin at home with superimposed
   portion from liver failure.
   - Now that INR<2, heparin gtt started
   .
   # Liver Injury: Likely shock liver. Improving.
   - Trend enzymes
   .
   # Renal Failure: Likely ATN. Renal function improving.
   - I/O
   - foley catheter
   .
   # Leukocytosis: Likely [**3-16**] arrest. Resolved.
   .
   ICU Care
   Nutrition: Regular Diet; Cardiac/Heart healthy , Diabetic/Consistent
   Carbohydrate
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU for now